Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I needed to come in"
Patient was feeling increasingly depressed and was thinking 
about overdosing on over the counter medications.  
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
History of present illness: ___ with a history of atypical
depression, ADHD, and concern for borderline personality 
disorder
self-presented at ED with suicidal ideation. Was seen by his
therapist yesterday with SI with plan of overdosing on
medications. No intention at the time. Presented at ED today as
SI gotten worse and pt felt unsafe. Pt has had a previous failed
suicide attempt at age ___, during which attempted to overdose on
20 advil, 20 Tylenol, and 24 aleve ___. 

Pt reports that recently, his mood has been more labile and his
feelings of depression, anxiety, and insomnia have been more
severe and more persistent. He feels that he could not handle
these emotions, and wanted these feelings to end, be it through
medications or through suicide. He has had a concussion during
___ and thought that after recovery from the 
concussion,
his symptoms would improve. However, his feelings of depression
and anxiety worsened, leading current feeling of hopelessness. 
He
has been researching what pills and the amount to allow him to
achieve suicide. He reports that his only reservation against
carrying out the plan is fear of a failed attempt. He denies
changes in sleep, loss in interests, feelings of guilt, changes
in cognition, appetite, psychomotor retardation from his
baseline. Denies hypersomnia or hyperphagia. Reports having a
good time with friends when they ___ out, which he enjoys; last
outing this past ___. He reports that his feeling of
depression consist of feeling anxious, unmotivated, and
overwhelmed.

Stressors in his life at the moment involve the "lingering
anxiety of things are never done" with regards to his school
work, and his issues with insomnia, for which he is prescribed
clonazepam. He is currently a freshman at ___, on a reduced course load for mental health
accommodations. He reports a handful of close friends in the 
area
whom he talks to and sees socially. 

PSYCH ROS:
Positive per HPI; otherwise negative for major depressive
symptoms, mania, hallucinations, delusion, or compulsions. 

Psychiatric history
- Hospitalizations: Two past hospitalizations. Failed suicide
attempt at age ___, was sent to day program after stabilization.
- Current treaters and treatment: has been seeing several
therapists in ___, but has not settled on one with good
rapport.
- Medication and ECT trials: No hx of ECT. Reports that
Wellbutrin, Zoloft, Lamictal, Abilify, and Xanax were not 
helpful
for him. Current medications are: Mirtazepine 45mg QHS,
clonazepam 0.5mg TID PRN anxiety, Adderal 10mg BID.
- Self-injury: prior suicide attempt at age ___ with Advil,
Tylenol, and Aleve.
- Harm to others: was charged with assault for punching a
classmate in the eye in high-school at age ___, the same day as
his suicide attempt. Charges were later expunged. 
- Access to weapons: denies.

 
Past Medical History:
Asthma 
 
Social History:
Social history: 
- B/R: Grew up in ___. Denies hx of trauma or abuse. 
Poor
relationship with mother as pt reports that his mother is a 
"straight edge".
- Living situation: Lives on campus as a freshman at 
___. This is his second year at ___ as he took a
year of medical leave in ___ of his first year. 
- Employment / income: Worked at a ___ last summer, 
and
as a ___ at a ___ for the two summers prior. 
- Supports: Reports a handful of good friends whom he can talk 
to
and can see socially. His few close friends know of his current
ED presentation. Two past romantic relationships. None 
currently.
- Firearms: Pt denies.

Patient endorsed to treatment team that his father is a ___ 
___ and works commutes to ___ daily.  His mother is 
a stay at home mom and he stated that they haven't gotten along 
since he was in elementary school.  Patient believes this is 
because they are too "similar" and stubborn.  Patient described 
his up bringing and home town as "affluent".  He is studying 
___ science and ___ in college.  Endorsed being an 
"intellect" and that he was able to "ace" his micro economics 
class without attending lectures by teaching himself. 

___ tells us that over the past few years he has been using
multiple drugs in addition to etoh.  He has experimented w/ use
of; ___, snorting prescribed Aderrall, benzos, cocaine,
psychedelics including mushrooms, and heavy etoh.  He says that
his drug use is "just like all my peers" and does not believe
that these are interfering w/ his advancement in life.  However,
pt is able to note that he has many conflicts w/ parents over 
the
above, is repeatedly admitted to psych units, feels unproductive
in life and unmotivated. In subsequent family meetings, ___ 
asked the team not to disclose his drug and alcohol use to his 
parents.  
 
Family History:
Reports younger brother has ADHD and is impulsive 
Reported his mother's two sisters are both "drug addicts"
 
Physical Exam:
VS: T: 97.9, BP: 134/62, HR: 79, O2 sat: 100% on RA

General: Young male in NAD. Well-nourished, well-developed.
Appears stated age.
 HEENT: Atraumatic.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
- Motor: Normal bulk and tone bilaterally. No tremor. No
asterixis.
- Strength: full power ___ throughout.
- Sensation: Intact to light touch throughout. 
- Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: intact to interview
- Orientation: oriented to person, time, place, situation
- Memory: intact to recent and past history. Intact to three
object recall on interview (Also repeated three objects given in
the ED during similar test).
- Fund of knowledge: consistent with education. Able to repeat
past presidents to ___ (patient asked to stop
repeating names at that time).
- Speech: normal rate, volume, and tone. Occasionally pressured
speech.
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation.

Mental Status:
- Appearance: No apparent distress, appears stated age, wearing
hospital gown
- Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
- Mood and Affect: "Better" / euthymic, full range, patient
cheerful (at times inappropriately cheerful).
- Thought Process: linear, coherent, goal-oriented. No LOA.
- Thought Content: denies current SI, no evidence of delusions 
or
paranoia
- Judgment and Insight: poor/poor

 
Pertinent Results:
___ 07:15PM   GLUCOSE-113* UREA N-16 CREAT-1.0 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-27 ANION GAP-15
___ 07:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:15PM   WBC-7.9 RBC-4.44* HGB-13.9 HCT-40.9 MCV-92 
MCH-31.3 MCHC-34.0 RDW-12.2 RDWSD-40.7
___ 07:15PM   NEUTS-61.5 ___ MONOS-6.9 EOS-1.5 
BASOS-0.3 IM ___ AbsNeut-4.85 AbsLymp-2.32 AbsMono-0.54 
AbsEos-0.12 AbsBaso-0.02
___ 07:15PM   PLT COUNT-215
___ 07:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:15PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission.  He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.  He had 
restricted access to sharps. There were no safety issues or 
incidents during his admission.   

2. PSYCHIATRIC:
#) Depression vs substance induced mood disorder vs bipolar 
disorder
On admission, patient endorsed labile mood, insomnia and 
anxiety.  Patient endorsed to the inpatient team extensive 
experimentation with street drugs ___, LSD, benzos, cocaine, 
mushrooms, frequent pot use and snorting his prescription 
Adderall) and extensive alcohol use.  Given ongoing substance, 
his presentation could be a result of substance use or an 
underlying depression exacerbated by substance use.  Per record 
brought in by the patient's parents, he also has been diagnosed 
with rapid cycling bipolar II.  He did endorse labile mood, but 
this could also be secondary to substance use and he did not 
appear manic or hypomanic on the unit.  He has been tried on 
multiple medications in the past including Lamictal, Abilify, 
Zoloft, Wellbutrin and Xanax.  Patient endorsed he didn't find 
any of these medications helpful for his mood, anxiety or sleep 
and that his current antidepressant, Remeron, has been the only 
helpful one.  He endorsed side effects with many of these 
medications that he couldn't tolerate.  He was continued on 
Remeron as he has found this medication helpful.  Patient's mood 
improved as he found the inpatient unit "low stress".  His SI 
diminished.  His sleep continued to be a problem despite 
trazadone and vistaril.  However, he endorsed never sleeping 
well through out his life and has seen a sleep specialist in the 
past.     

#) ADHD
Patient reports history of ADHD and takes Adderall at home.  
Patient was not given Adderall as an inpatient.  Given his 
reported history of mis-use of Adderall, will recommend not 
re-starting Adderall in the outpatient setting and to consider 
alternatives such as study and organizational skills classes and 
non-stimulant medications.  

#) Anxiety
Patient endorses feeling anxious frequently and seems to get 
overwhelmed by school work and gets anxious when he uses 
Adderall daily for school.  He stated that the Klonopin is 
useful when he feels anxious and it has been the only thing that 
helps his anxiety.  However, given history of substance and 
alcohol use and lack of other coping skills, the inpatient team 
tapered him off Klonipin and recommend not re-starting it as an 
outpatient.  Patient initially felt "clear headed" off the 
Klonopin, but by the end of the admission was stating he needed 
it for his anxiety.  Would consider a SSRI and relaxation/coping 
skills in place of benzodiazepines.   
 
3. SUBSTANCE USE DISORDERS:
#) Marijuana abuse, counseled patient to avoid street drugs and 
alcohol as they will worsen his depression.  Patient stated that 
he only uses street drugs when he feels depressed and only 
drinks to be social with friends and does not think it 
interferes with his function.  

4. MEDICAL
#)Asthma: Continued home inhalers 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient initially did not want his parents involved as he felt 
they "take over" everything.  However, he did contact them and 
subsequently agreed to have a family meeting with them.  He did 
not want to discuss his substance use with his parents or for 
them to know what he had told the team about his recent use.  
Family meeting mostly focused on plan for where he would ___ upon 
discharge given that he was behind in school work and unsure if 
he could safely return and finish the semester but at the same 
time did not want to ___ home due to his relationship with his 
mother and that none of his friends would be around until 
___.  Upon discharge, agreed plan was for his father to talk 
to his ___ to see if he could return to complete a few of 
his courses and then return home for the summer.    

#) INTERVENTIONS
- Medications: Remeron 45 mg QHS, tried trazodone and vistaril 
for sleep which were not helpful per patient. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient will return to ___ 
pending evaluation by school.  Has a psychiatrist in ___ 
and one in ___.  Currently has appointment with psychiatrist in 
___.  Will refer to partial program as well.  

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on his reported 
depressed mood and recent research into over the counter 
medications that could be lethal.  Their static factors noted at 
that time include history of suicide attempts, history of 
substance abuse, male gender, Caucasian race, age, marital 
status, and the presence of a concurrent personality disorder.   
The modifiable risk factors included limited coping skills, few 
outpatient providers, insomnia, lack of purpose, impulsivity and 
active substance use.  The inpatient team discussed substance 
use with the patient and encouraged him to abstain from drugs 
and alcohol.  He is being referred to a partial program to work 
on coping skills.  Finally, the patient is being discharged with 
many protective risk factors including help-seeking nature, 
future-oriented viewpoint, strong family support, lack of 
suicidal ideation, no history of abuse, and strong social 
supports.  Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

Our Prognosis of this patient is, fair as he has some insight 
into his condition and has good resources for further treatment. 
 However, he has had multiple admissions and on going substance 
use and poor coping which he will need to address in order to 
avoid re-admission in the future.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Amphetamine-Dextroamphetamine XR 10 mg PO BID 
4. Mirtazapine 45 mg PO QHS 
5. ClonazePAM 0.5 mg PO TID:PRN Anxiety 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Mirtazapine 45 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression vs substance induced mood disorder 

 
Discharge Condition:
General: NAD, dressed in casual clothes, good hygiene, appears 
stated age
Behavior: Cooperative, good eye contact 
Mood/Affect: 'bored', full affect, mood congruent 
Speech: Fluent, regular rate and tone 
Thought content: Oriented towards discharge, linear, goal 
directed
SI: Denies 

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation.  We 
adjusted your medications, and you are now ready for discharge 
and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or ___ to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___